US06172061B2
A mixture of 7- (trifluoromethanesulfoxy) -1-tetralone (23.3 g), phenylborate (11.8 g), potassiumcarbonate (21.9 g), toluene (500 ml), ethanol (50 ml) and water (50 ml) was stirred for 30 minutes at room temperature under argon atmosphere, and to the mixture was added tetrakis(triphenylphosphine)palladium (3.66 g). The mixture was refluxed for 20 hours and then cooled to room temperature. The organic layer was separated, washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/toluene/hexane=1/5/5) to give 7-phenyl-1-tetralone (15.1 g) as pale brown oil.

reactant | 1-tetralone | 23.3 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | phenylborate | 11.8 g | C1(=CC=CC=C1)OB([O-])[O-]
reactant | potassiumcarbonate | 21.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 3.66 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-phenyl-1-tetralone | 15.1 g | C1(=CC=CC=C1)C1=CC=C2CCCC(C2=C1)=O | C16H14O
